US06333336B1
2-(4-Chlorophenyl)-2,5-dihydro-6-methyl-7-[3-(imidazol-1-yl)phenyl]-pyrazolo[4,3-c]pyridin-3-one
A mixture of 2-(4-chlorophenyl)-2,5-dihydro-7-(3-iodophenyl)-6-methylpyrazolo[4,3-c]pyridin-3-one (0.100 g, 0.217 mmol), imidazole (33.9 mg, 0.498 mmol), potassium carbonate (29.9 mg, 0.216 mmol), and copper bronze (1 mg) in 1-methyl-2-pyrrolidinone (0.6 ml) was heated at 140° C. under nitrogen for 90 h. Purification by flash chromatography (silica gel, 3-10% MeOH/CH2Cl2) gave 30.3 mg (35%) of the title compound. This was recrystallised from CH2Cl2-MeOH-EtOAc; 1H NMR (400 MHz, DMSO-d6) δ2.29 (3H, s), 7.16 (1H, br s), 7.42 (2H, d), 7.50 (1H, d, J 7.6 Hz), 7.65 (1H, t J 7.8 Hz), 7.73 (1H, d, J 8.1 Hz), 7.80 (1H, s), 7.85 (1H, br s), 8.11 (2H, d), 8.36 (1H, br s), 8.61 (1H, s), 12.53 (1H, br d, J 5.6 Hz); MS (ES+) m/z 402/404 [MH]+.

reactant | 2-(4-chlorophenyl)-2,5-dihydro-7-(3-iodophenyl)-6-methylpyrazolo[4,3-c]pyridin-3-one | 0.217 mmol, 0.100 g | ClC1=CC=C(C=C1)N1N=C2C(=CNC(=C2C2=CC(=CC=C2)I)C)C1=O | C19H13ClIN3O
reactant | imidazole | 0.498 mmol, 33.9 mg | N1C=NC=C1 | C3H4N2
reactant | potassium carbonate | 0.216 mmol, 29.9 mg | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidinone | 0.6 ml | CN1C(CCC1)=O | C5H9NO
catalyst | copper bronze | 1 mg | [Cu] | Cu
product | 2-(4-Chlorophenyl)-2,5-dihydro-6-methyl-7-[3-(imidazol-1-yl)phenyl]-pyrazolo[4,3-c]pyridin-3-one | 30.3 mg, 35% | ClC1=CC=C(C=C1)N1N=C2C(=CNC(=C2C2=CC(=CC=C2)N2C=NC=C2)C)C1=O | C22H16ClN5O
